US04444788
(40a) (5Z,13E)-(8R,9R,11R,12R,15R)-9-Chloro-11,15-bis(tetrahydropyran-2-yloxy)-16,16,19-trimethyl-5,13,18-prostatrienoic Acid Methyl Ester
A solution of 1.15 g of (5Z,13E)-(8R,9S,11R,12R,15R)-9-hydroxy-11,15-bis(tetrahydropyran-2-yloxy)-16,16,19-trimethyl-5,13,18-prostatrienoic acid methyl ester, 780 mg of triphenylphosphine, and 15 ml of a solution of 0.97 ml of carbon tetrachloride, 0.79 ml of pyridine, and 48 ml of acetonitrile was stirred for 55 hours under argon at room temperature. The mixture was then diluted with 15 ml of ether and 30 ml of hexane, further stirred for 10 minutes, and filtered. The residue from the evaporation was extracted with a mixture of 5 ml of ether and 95 ml of hexane, filtered, and concentrated to dryness under vacuum. The residue was purified by column chromatography on silica gel with hexane/20-50% ethyl acetate as the eluent, thus obtaining 1.07 g of the desired compound.

reactant | (5Z,13E)-(8R,9S,11R,12R,15R)-9-hydroxy-11,15-bis(tetrahydropyran-2-yloxy)-16,16,19-trimethyl-5,13,18-prostatrienoic acid methyl ester | 1.15 g | COC(CCC\C=C/C[C@H]1[C@H](C[C@H]([C@@H]1\C=C\[C@H](C(CC=C(C)C)(C)C)OC1OCCCC1)OC1OCCCC1)O)=O | C34H56O7
reactant | triphenylphosphine | 780 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 0.97 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | pyridine | 0.79 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | hexane | 30 ml | CCCCCC | C6H14
solvent | acetonitrile | 48 ml | C(C)#N | C2H3N
product | (5Z,13E)-(8R,9R,11R,12R,15R)-9-Chloro-11,15-bis(tetrahydropyran-2-yloxy)-16,16,19-trimethyl-5,13,18-prostatrienoic Acid Methyl Ester | 1.07 g | COC(CCC\C=C/C[C@H]1[C@@H](C[C@H]([C@@H]1\C=C\[C@H](C(CC=C(C)C)(C)C)OC1OCCCC1)OC1OCCCC1)Cl)=O | C34H55ClO6
